US06583135B2
Preparation of tert-Butyl 7,9-Dichloro-6-(2-phenoxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
Sodium hydride (60% dispersion in mineral oil, 51 mg, 1.3 mmol) was added to a solution of tert-butyl 7,9-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.30 g, 0.84 mmol) in DMF (5 mL). After 30 min, β-bromophenetole was added (0.23 mL). The reaction was quenched with saturated aqueous NH4Cl after 18 h and extracted with EtOAc (1×50 mL, 2×20 mL). The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was purified by column chromatography (Biotage, 40S) with heptane/EtOAc (17:3) and crystallized from EtOAc/heptane to give 0.31 g (77%) of a white solid: mp 154.0-155.0° C.; 1H NMR (300 MHz, DMSO) δ 7.54 (d, J=1.9 Hz, 1H), 7.20 (m, 3H), 6.85 (m, 3H), 4.86 (m, 2H), 4.24 (m, 2H), 3.69 (m, 2H), 3.54 (m, 2H), 3.12 (m, 2H), 2.91 (m, 2H), 1.42 (s, 9H); IR (diffuse reflectance) 1683, 1463, 1410, 1366, 1345, 1293, 1242, 1232, 1227, 1174, 1167, 1113, 857, 756, 693 cm−1; MS (EI) m/z 474 (M+), 474, 420, 419, 418, 334, 332, 311, 238, 84, 57; Anal. Calcd for C25H28Cl2N2O3: C, 63.16; H, 5.94; N, 5.89; found: C, 63.19; H, 5.97; N, 5.86.

reactant | Sodium hydride | 1.3 mmol, 51 mg | [H-].[Na+]
reactant | tert-butyl 7,9-dichloro-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.84 mmol, 0.30 g | ClC1=CC(=CC=2C3=C(NC12)CCN(CC3)C(=O)OC(C)(C)C)Cl | C17H20Cl2N2O2
reactant | β-bromophenetole | BrCCOC1=CC=CC=C1 | C8H9BrO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 7,9-Dichloro-6-(2-phenoxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.31 g, 77% | ClC1=CC(=CC=2C3=C(N(C12)CCOC1=CC=CC=C1)CCN(CC3)C(=O)OC(C)(C)C)Cl | C25H28Cl2N2O3
